US06602884B2
a) (3RS,4RS)-4-[3-(R,S)-amino-3-(3-fluoro-6-methoxyquinolin-4-yl)propyl]-1-[2-(2,5-difluorophenylthio)ethyl]piperidine-3-acetic Acid Hydrochloride
A mixture of 0.09 g of methyl (3RS,4RS)-4-[3-(R,S)-amino-3-(3-fluoro-6-methoxyquinolin-4-yl)propyl]-1-[2-(2,5-difluorophenylthio)ethyl]piperidine-3-acetate in 0.36-cm3 of a 1 N aqueous sodium hydroxide solution and 3-cm3 of dioxane was heated at a temperature in the region of 55° C., with stirring and under an inert atmosphere, for 4 hours. After cooling in the vicinity of 20° C., the reaction mixture was concentrated to dryness under reduced pressure (2 kPa) at a temperature in the region of 50° C. The evaporation residue obtained was taken up in 5-cm3 of distilled water and acidified with a 1-N aqueous hydrochloric acid solution and was concentrated. The aqueous phase was washed with 8-cm3 of dichloromethane and then concentrated according to the conditions described above. The residue obtained was taken up in 10-cm3 of acetone and then it was filtered on sintered glass. 0.081 g of (3RS,4RS)-4-[3-(R,S)-amino-3-(3-fluoro-6-methoxyquinolin-4-yl)propyl]-1-[2-(2,5-difluorophenylthio)ethyl]piperidine-3-acetic acid hydrochloride wereobtained in the form of a white solid.

reactant | methyl (3RS,4RS)-4-[3-(R,S)-amino-3-(3-fluoro-6-methoxyquinolin-4-yl)propyl]-1-[2-(2,5-difluorophenylthio)ethyl]piperidine-3-acetate | 0.09 g | NC(CCC1C(CN(CC1)CCSC1=C(C=CC(=C1)F)F)CC(=O)OC)C1=C(C=NC2=CC=C(C=C12)OC)F | C29H34F3N3O3S
reactant | sodium hydroxide | 1 N | [OH-].[Na+]
reactant | dioxane | 3-cm3 | O1CCOCC1 | C4H8O2
reactant | hydrochloric acid | Cl | ClH
solvent | water | 5-cm3 | O | H2O
solvent | acetone | 10-cm3 | CC(=O)C | C3H6O
product | (3RS,4RS)-4-[3-(R,S)-amino-3-(3-fluoro-6-methoxyquinolin-4-yl)propyl]-1-[2-(2,5-difluorophenylthio)ethyl]piperidine-3-acetic Acid Hydrochloride | Cl.NC(CCC1C(CN(CC1)CCSC1=C(C=CC(=C1)F)F)CC(=O)O)C1=C(C=NC2=CC=C(C=C12)OC)F | InChI=1S/C28H32F3N3O3S.ClH/c1-37-20-4-7-25-21(14-20)28(23(31)15-33-25)24(32)6-2-17-8-9-34(16-18(17)12-27(35)36)10-11-38-26-13-19(29)3-5-22(26)30;/h3-5,7,13-15,17-18,24H,2,6,8-12,16,32H2,1H3,(H,35,36);1H
